US04797394
Diallyl Tartarate
Tartaric acid (450 g., 3.0 mols) was slurried in 600 ml. DMF and cooled to 0°-5° C. in an ice bath. Triethylamine (835 ml., 6.0 mols) was added and the resulting solution recooled to 0°-5° C. Allyl bromide (519 ml., 6.0 mols) was then added. An exotherm was noted. The resulting slurry was stirred at room temperature and by-product triethylamine hydrobromide recovered by filtration. The filtrate was diluted with 1.5 l. of ethyl acetate, washed 3×300 ml. H2O, dried over Na2SO4 and stripped to yield title product as an oil, 434 g.; 1H-nmr (CDCl3) delta 3.42 (2H, br.s), 4.5-4.8 (6H, complex), 5.0-5.4 (4H, complex), 5.6-6.2 (2H, complex).

reactant | Tartaric acid | 3.0 mols, 450 g | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
reactant | Triethylamine | 6.0 mols, 835 ml | C(C)N(CC)CC | C6H15N
reactant | Allyl bromide | 6.0 mols, 519 ml | C(C=C)Br | C3H5Br
reactant | DMF | CN(C)C=O | C3H7NO
product | Diallyl Tartarate | C(C(O)C(O)C(=O)OCC=C)(=O)OCC=C | C10H14O6
